US07211545B2
At room temperature, 45 mg (0.16 mmol) of 5-chloro-6-(2-chloro-6-fluorophenyl)-7-methylimidazo[1,2-a]pyrimidine and 63 mg (0.64 mmol) of 4-methylpiperidine were mixed. After one hour, chloroform and aqueous saturated ammonium chloride solution were added to the reaction mixture. The separated organic layer was washed with saturated brine, dried over sodium sulfate and concentrated. The residue was subjected to silica gel chromatography to give 35 mg (0.10 mmol, 61%) of 5-(4-methylpiperidin-1-yl)-6-(2-chloro-6-fluorophenyl)-7-methylimidazo[1,2-a]pyrimidine.

reactant | 5-chloro-6-(2-chloro-6-fluorophenyl)-7-methylimidazo[1,2-a]pyrimidine | 0.16 mmol, 45 mg | ClC1=C(C(=NC=2N1C=CN2)C)C2=C(C=CC=C2F)Cl | C13H8Cl2FN3
reactant | 4-methylpiperidine | 0.64 mmol, 63 mg | CC1CCNCC1 | C6H13N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-methylpiperidin-1-yl)-6-(2-chloro-6-fluorophenyl)-7-methylimidazo[1,2-a]pyrimidine | 0.10 mmol, 35 mg, 61% | CC1CCN(CC1)C1=C(C(=NC=2N1C=CN2)C)C2=C(C=CC=C2F)Cl | C19H20ClFN4
